US09212182B2
A microwave vessel was charged 1-(5,6-dichloro-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (50 mg, 0.107 mmol), cyclopentanamine (456 μl, 5.35 mmol), hunig's base (93 μl, 0.535 mmol) and DMSO (1070 μl). The vial was sealed and heated to 130° C. for 2 hrs in a Biotage Initiator microwave reactor. The reaction mixture was brought to ambient temperature and then diluted with 1N HCl and Ethyl Acetate. The layers were separated, and the aq. layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The crude residue was purified by chromatography on silica gel (100-g SNAP Ultra column, 10-100% EtOAc/Heptanes) to give 1-(5-chloro-6-(cyclopentylamino)-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (30 mg, 0.058 mmol, 54.3% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.66 (br. s, 1 H) 8.72 (d, J=1.71 Hz, 1 H) 8.32-8.35 (m, 1 H) 8.18 (d, J=9.59 Hz, 1 H) 7.86 (dd, J=8.97, 2.23 Hz, 1 H) 7.66 (s, 1 H) 7.00 (d, J=9.02 Hz, 1 H) 6.77 (d, J=9.64 Hz, 1 H) 6.46 (d, J=6.79 Hz, 1 H) 5.57 (br. s., 1 H) 4.30-4.37 (m, 1 H) 3.72 (s, 3 H) 1.99-2.03 (m, 2H) 1.47-1.85 (m, 6 H). m/z (ESI) 516.0 (M+H)+.

reactant | 1-(5,6-dichloro-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.107 mmol, 50 mg | ClC=1C=C(C(=NC1Cl)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C18H12Cl2N4O5S
reactant | cyclopentanamine | 5.35 mmol, 456 μl | C1(CCCC1)N | C5H11N
reactant | hunig's base | 0.535 mmol, 93 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 1070 μl | CS(=O)C | C2H6OS
solvent | HCl | 1N | Cl | ClH
solvent | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-chloro-6-(cyclopentylamino)-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.058 mmol, 30 mg, 54.3% yield | ClC=1C=C(C(=NC1NC1CCCC1)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C23H22ClN5O5S
